US04731364
Dissolve 21.7 g. (70.7 mmole) of (±)-cis-3-allyloxy-6-chloro-2,3-dihydro-2-(1H-1-imidazolylmethyl) benzo[b]thiophene in 500 mL of CH2Cl2 and cool the solution to 0°-5°. Added 14.6 g (70.7 mmole) of m-chloroperoxybenzoic acid (tech. 80-85%) and stir the reaction mixture at 0°-5° for 1 hour. Extract the reaction mixture with 500 mL of 5% aqueous NaHCO3 followed by 500 mL of H2O. Dried the CH2Cl2 layer over anhydrous MgSO4 and concentrate it to give (±)-cis-3-allyloxy-6-chloro-2,3-dihydro-2-(1H-1-imidazolylmethyl)benzo[b]thiophene-1-oxide, a gum, m/e 322.

reactant | (±)-cis-3-allyloxy-6-chloro-2,3-dihydro-2-(1H-1-imidazolylmethyl) benzo[b]thiophene | 70.7 mmole | C(C=C)O[C@H]1C2=C(S[C@H]1CN1C=NC=C1)C=C(C=C2)Cl | C15H15ClN2OS
reactant | m-chloroperoxybenzoic acid | 70.7 mmole, 14.6 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | (±)-cis-3-allyloxy-6-chloro-2,3-dihydro-2-(1H-1-imidazolylmethyl)benzo[b]thiophene-1-oxide | C(C=C)O[C@H]1C2=C(S([C@H]1CN1C=NC=C1)=O)C=C(C=C2)Cl | C15H15ClN2O2S
